US06034275
10 g of 6-chloro-pyridine-2-carboxylic acid are dissolved in 50 ml of thionyl chloride and heated under reflux for 3.5 h. The solution is cooled and freed from excess thionyl chloride under reduced pressure. The crude product is taken up in 60 ml of methylene chloride and treated with 7.22 g of N,O-dimethyl-hydroxylamine.hydrochloride 25 ml of NEt3 in 30 ml of CH2Cl2 are added while cooling with ice and the solution is stirred at RT for 1.5 h., the suspension is filtered and the filtrate is washed with dilute sodium hydroxide solution and saturated sodium chloride solution and dried. After concentration of the solution 13.12 g of 6-chloro-pyridine-2-carboxylic acid methoxy-methyl-amide are obtained as the crude product. 6.7 g of this amide in 40 ml of THF are added dropwise at -78° C. to a solution of 40 ml of n-BuLi (1.6M in hexane) and 15 g of 1,4-dibromobenzene in 140 ml of THF. The solution is stirred at -78° C. for 2 h. and at 0° C. for 1 h. and then treated with 60 ml of 2M HCl. The phases are separated, the inorganic phase is extracted with 50 ml of ether and the organic phases are washed with sat. NaHCO3 solution and saturated sodium chloride solution and dried. The crude product is purified over silica gel with ethyl acetate:hexane (6:1) and recrystallized from ethyl acetate/hexane. There are obtained 6.75 g of (4-bromo-phenyl)-(6-chloro-pyridin-3-yl)-methanone, m.p 127.4° C., MS: m/e 295 (M, 1Br).

reactant | 6-chloro-pyridine-2-carboxylic acid | 10 g | ClC1=CC=CC(=N1)C(=O)O | C6H4ClNO2
reactant | N,O-dimethyl-hydroxylamine.hydrochloride | 25 ml, 7.22 g | Cl.CNOC
reactant | NEt3 | CCN(CC)CC | C6H15N
solvent | thionyl chloride | 50 ml | S(=O)(Cl)Cl | Cl2OS
solvent | methylene chloride | 60 ml | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 30 ml | C(Cl)Cl | CH2Cl2
product | 6-chloro-pyridine-2-carboxylic acid methoxy-methyl-amide | 13.12 g | CON(C(=O)C1=NC(=CC=C1)Cl)C | C8H9ClN2O2
